US09126970B2
Step d): Biphenyl-4-yl-(9,9-dimethyl-9H-fluoren-2-yl)-[4-(12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-7-yl)phenyl]amine
20.0 g (27.8 mmol) of biphenyl-4-yl-[4-(12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-7-yl)phenyl]-(9,9-dimethyl-9H-fluoren-2-yl)amine are dissolved in 500 ml of toluene with 4.39 ml (41.7 mmol) of bromobenzene and degassed. 1.94 ml (1.94 mmol/1 M in toluene) of tri-tert-butylphosphine, 249.8 mg of Pd(OAc)2 and 4.01 g (41.7 mmol) of NaOtBu are added (solids are degassed in advance), and the mixture is stirred under reflux for 5 h. The warm (45° C.) mixture is filtered through Alox B (activity grade 1), washed with water, dried and evaporated. The crude product is extracted with heptane/toluene in a Soxhlet extractor and crystallised from heptane, giving, after sublimation, 14.7 g (67%) of the product as a yellowish solid having a purity of 99.9%.

reactant | biphenyl-4-yl-[4-(12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-7-yl)phenyl]-(9,9-dimethyl-9H-fluoren-2-yl)amine | 27.8 mmol, 20.0 g | C1(=CC=C(C=C1)N(C1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C)C1=CC=C(C=C1)C=1C=C2C=3C=C4C(=CC3NC2=CC1)C(C1=CC=CC=C14)(C)C)C1=CC=CC=C1 | C54H42N2
reactant | bromobenzene | 41.7 mmol, 4.39 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | tri-tert-butylphosphine | 1.94 mmol, 1 M, 1.94 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaOtBu | 41.7 mmol, 4.01 g | CC(C)(C)[O-].[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 249.8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Biphenyl-4-yl-(9,9-dimethyl-9H-fluoren-2-yl)-[4-(12,12-dimethyl-10-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-7-yl)phenyl]amine | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C=1C=C2C=3C=C4C(=CC3N(C2=CC1)C1=CC=CC=C1)C(C1=CC=CC=C14)(C)C)C1=CC=4C(C2=CC=CC=C2C4C=C1)(C)C)C1=CC=CC=C1 | C60H46N2
